data/oMe_Silver.jsonl
{"reaction_id": "NR-108_1-c1ccc(OC)cc1_2-OC_3-c1ccc(F)cc1","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(c1ccc(F)cc1)CCCC(c1ccc(OC)cc1)OC"],"products_smiles": ["N(c1ccc(F)cc1)CCCC(c1ccc(OC)cc1)(OC)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](c1ccc(F)cc1)CCCC(c1ccc(OC)cc1)OC","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(c1ccc(F)cc1)CCC[C](c1ccc(OC)cc1)OC","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(c1ccc(F)cc1)CCCC(c1ccc(OC)cc1)(OC)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
{"reaction_id": "NR-241_1-c1ccc(C(F)(F)F)cc1_2-C(C)(C)C_3-CC(Cl)(Cl)Cl_4-c1ccc(S(=O)(=O)C)cc1","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["c1ccc(C(F)(F)F)cc1C(=O)[H]","C(C)(C)COC(=O)CP(=O)(OCC(Cl)(Cl)Cl)(Oc1ccc(S(=O)(=O)C)cc1)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["c1ccc(C(F)(F)F)cc1/C=C\\C(=O)OC(C)(C)C"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)COC(=O)[CH-]P(=O)(OCC(Cl)(Cl)Cl)(Oc1ccc(S(=O)(=O)C)cc1)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)COC(=O)C(P(=O)(OCC(Cl)(Cl)Cl)(Oc1ccc(S(=O)(=O)C)cc1))C([O-])c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)COC(=O)C1C(c1ccc(C(F)(F)F)cc1)OP1([O-])(OCC(Cl)(Cl)Cl)(Oc1ccc(S(=O)(=O)C)cc1)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(C(F)(F)F)cc1/C=C\\C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
